US07439393B2
x) (5R)-3-(6-{2-[(3-Aminobenzyl)oxy]ethoxy}hexyl)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one
A solution of (5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-3-(6-{2-[(3-nitrobenzyl)oxy]ethoxy}hexyl)-1,3-oxazolidin-2-one (0.10 g) in EtOH (3 ml) and EtOAc (3 ml) was hydrogenated for 19.5 h over platinum oxide (0.020 g). The mixture was filtered through celite, and the solvent evaporated in vacuo to give a residue which was purified by flash chromatography on silica. Elution with EtOAc-cyclohexane (8:2) followed by solvent evaporation in vacuo gave the title compound (0.057 g). LCMS RT=3.43 min, ES+ve 499 (MH)+.

reactant | (5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-3-(6-{2-[(3-nitrobenzyl)oxy]ethoxy}hexyl)-1,3-oxazolidin-2-one | 0.10 g | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCCCCCOCCOCC2=CC(=CC=C2)[N+](=O)[O-])C | C28H36N2O8
solvent | EtOH | 3 ml | CCO | C2H6O
solvent | EtOAc | 3 ml | CCOC(=O)C | C4H8O2
catalyst | platinum oxide | 0.020 g | [Pt]=O
product | (5R)-3-(6-{2-[(3-Aminobenzyl)oxy]ethoxy}hexyl)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one | 0.057 g | NC=1C=C(COCCOCCCCCCN2C(O[C@@H](C2)C2=CC3=C(OC(OC3)(C)C)C=C2)=O)C=CC1 | C28H38N2O6
